Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:13].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[C:14]([H:15])([H:16])[H:17],4.43783681825
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13],4.98207822407
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],1.9773346879
[O:1]=[C:2]([C:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:11].[O:1]=[C:2]([C:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10],5.13642664193
[C:7]([H:8])[H:9].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:10]([H:11])=[C:12]/[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12]/[C:13]([H:14])([H:15])[H:16],-5.23244728182
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3](=[C:4][H:5])[C:13]([H:14])([H:15])[H:16],4.43532014692
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:4],1.97270614448
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-3.73204946339
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10].[O:11]=[C:12]([H:13])[H:14],0.711273140002
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10].[O:1],4.0492602603500005
[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],-6.52217121698
[O:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:9].[O:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])[C:10]([H:11])([H:12])[H:13],4.3081277126699975
[C:1]#[C:2][O:3][C:4][O:6][H:7].[H:5]>>[C:1]#[C:2][O:3][C:4]([H:5])[O:6][H:7],-3.9596327856
[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][O:2][C:3][O:4][H:5]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])[H:10],-2.39064459949
[C:1]#[C:2][C:6]([H:7])([H:8])[H:9].[O:3]=[C:4][H:5]>>[C:1]=[C:2]([O:3][C:4][H:5])[C:6]([H:7])([H:8])[H:9],0.34189639463
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.09331390021
[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[O:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8],2.58246552441
[C:2]([H:3])([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1][C@@:2]([H:3])([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.40268198432
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.83970562375
[H:1][O:2]/[C:3]=[C:4](\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][O:2]/[C:3]=[C:4](\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.55613951821
[H:1][C:2]1[C:3]2[C:4]1[C:5]2[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C:5](=[C:4])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-0.0774926087506
[O:1]=[C:2]([C:3][H:4])[O:5][C:6]#[C:7][H:8]>>[C:3][H:4].[O:1]=[C:2][O:5][C:6]#[C:7][H:8],5.649732814939999
[H:1][C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.53943080601
[H:1][O:2]/[C:3](=[C:4]\[O:5][C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][O:2]/[C:3](=[C:4]\[O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.0890803593400005
[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-7.9076527999999975
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]1[O:8][C:9]1([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[O:8])[C:9]([H:10])[H:11],-1.42705684164
[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-8.23826748329
